US09145409B2
To a solution of (S)-Methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)-methyl)benzoate (I12, 3.21 g, 7.20 mmol) in methanol (36 mL) was added hydrogen chloride in dioxane (4 M, 9.0 mL, 36 mmol). The reaction mixture was stirred at RT for 16 h. The solvent was removed in vacuo to afford (S)-Methyl 4-((3-(amino(phenyl)methyl)phenoxy)methyl)benzoate hydrochloride (2.65 g, >95%).

reactant | (S)-Methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)-methyl)benzoate | 7.20 mmol, 3.21 g | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)C1=CC=CC=C1 | C27H29NO5
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 36 mmol, 4 M, 9.0 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 36 mL | CO | CH4O
product | (S)-Methyl 4-((3-(amino(phenyl)methyl)phenoxy)methyl)benzoate hydrochloride | 2.65 g, >95% | Cl.N[C@H](C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)C1=CC=CC=C1 | InChI=1S/C22H21NO3.ClH/c1-25-22(24)18-12-10-16(11-13-18)15-26-20-9-5-8-19(14-20)21(23)17-6-3-2-4-7-17;/h2-14,21H,15,23H2,1H3;1H/t21-;/m0./s1
